US08563565B2
(1) Synthesis of 3-bromo-6-(fluoromethyl)-2,4-dimethylpyridine
A mixture of 3-bromo-6-(bromomethyl)-2,4-dimethylpyridine obtained in Preparation Example 30(1) (2.00 g) and TBAF (35.8 mL, 1 M solution in THF) was stirred at room temperature for two hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 0% to 50%) to give the title compound (572 mg). 1H-NMR (400 MHz, CDCl3) δ (ppm): 2.44 (s, 3H), 2.67 (s, 3H), 5.28-5.47 (m, 2H), 7.14-7.19 (m, 1H).

reactant | 3-bromo-6-(bromomethyl)-2,4-dimethylpyridine | BrC=1C(=NC(=CC1C)CBr)C | C8H9Br2N
reactant | TBAF | 1 M, 35.8 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-bromo-6-(fluoromethyl)-2,4-dimethylpyridine | 572 mg | BrC=1C(=NC(=CC1C)CF)C | C8H9BrFN
